* BALUN
*
* A bidirectional balanced-unbalanced converter.
* Maps between the unbalanced signals '˜d=1'€™ and '€˜c=2'€™ and the balanced signals '€˜p=3'€™ and '€˜n=4'€™.

.subckt balun (1 2 3 4)

* Ideal transformer for the positive input
E1 5 2 1 0 0.5
V1 3 5
F1 1 0 V1 -0.5
R1 1 0 1T

* Ideal transformer for the negative input
E2 6 4 1 0 0.5
V2 2 7
F2 1 0 V2 -0.5
R2 7 6 1u
.ends balun
